* OVERALL BEST CANDIDATE: 00_Phase_2_24V_to_5V_High_Current_Buck_g2_cand1_b2
* FITNESS SCORE: 0.8779
*
* Generated: 2026-06-02T21:59:46
* Constraint: Phase 2: 24V to 5V High Current (Buck)
*   vin_min = 20
*   vin_max = 28
*   vout_target = 5
*   efficiency_target = 0.89
*   power_in = 120
* Candidate: 4 of 12
* Grouped name: g2_cand1
*
* 20V to 5V Buck, 120W
Vin in 0 20
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 220u
Rload out 0 0.278
Vgate gate 0 PULSE(0 12 0 1n 1n 7.14u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
