* OVERALL BEST CANDIDATE: 00_Phase_1_9V_Battery_to_5V_Logic_Buck_g3_cand2_b9
* FITNESS SCORE: 0.9758
*
* Generated: 2026-06-04T15:49:44
* Constraint: Phase 1: 9V Battery to 5V Logic (Buck)
*   vin_min = 7
*   vin_max = 10
*   vout_target = 5
*   efficiency_target = 0.8
*   power_in = 10
* Candidate: 8 of 12
* Grouped name: g3_cand2
*
* 9V to 5V Buck
Vin in 0 9
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 100u
Rload out 0 0.5
Vgate gate 0 PULSE(0 12 0 1n 1n 5.5u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
